US04419516
(Imidazo[1,5-a]pyridin-3-ylthio)acetonitrile
51.0 g (0.315 m) imidazo[1,5-a]pyridine-3(2H)-thione, prepared according to Example 1, 27.6 g (0.365 m) chloroacetonitrile and 30.7 g triethylamine are dissolved in 600 ml of toluene and the solution is heated to reflux for 3 hr, then allowed to cool to room temperature. The toluene solution is washed with water, dried over anhydrous magnesium sulfate and treated with Darco. After the solvent is removed, the residual solid is recrystallized from cyclohexane. A total yield of 62 g is obtained. The recrystallized sample has a melting point of 120°-2° C.

reactant | imidazo[1,5-a]pyridine-3(2H)-thione | 51.0 g | C=1NC(N2C1C=CC=C2)=S | C7H6N2S
reactant | chloroacetonitrile | 27.6 g | ClCC#N | C2H2ClN
reactant | triethylamine | 30.7 g | C(C)N(CC)CC | C6H15N
solvent | toluene | 600 ml | C1(=CC=CC=C1)C | C7H8
product | (Imidazo[1,5-a]pyridin-3-ylthio)acetonitrile | C=1N=C(N2C1C=CC=C2)SCC#N | C9H7N3S
